US04150139
The reaction of 11-methylene-3-methylsulfinyl-11H-s-triazolo[3,4-b][3]benzazepine with sodium methoxide yielded 3-methoxy-11-methylene-11H-s-triazolo[3,4-b][3]benzazepine. Colorless needles (as recrystallized from ethyl acetate), melting point: 160°-161° C.

reactant | 11-methylene-3-methylsulfinyl-11H-s-triazolo[3,4-b][3]benzazepine | C=C1C=2N(C=CC3=C1C=CC=C3)C(=NN2)S(=O)C | C13H11N3OS
reactant | sodium methoxide | C[O-].[Na+]
product | 3-methoxy-11-methylene-11H-s-triazolo[3,4-b][3]benzazepine | COC1=NN=C2C(C3=C(C=CN21)C=CC=C3)=C | C13H11N3O
